US05594021
N-(4-bromo-3-methyl-5-isoxazolyl)-2-(3,4,5-trimethoxybenzyl)benzo[b]thiophene-3-sulfonamide was prepared in the same manner as described in Example 41. Reaction of 4-bromo-3-methyl-5-amino-isoxazole (0.55 mmoles, 97 mg), NaH (1.4 mmoles, 55 mg), and 2-(3,4,5-trimethoxylbenzyl)-benzo[b]thiophene-3-sulfonyl chloride (0.66 mmoles, 0.27 g) in THF (2 ml) yielded, after flash chromatography using 50% ethyl acetate/haxanes and recrystallization from chloroform and hexanes, 94 mg of a tan solid, m.p. 154°-156° C.

reactant | 4-bromo-3-methyl-5-amino-isoxazole | 0.55 mmoles, 97 mg | BrC=1C(=NOC1N)C | C4H5BrN2O
reactant | NaH | 1.4 mmoles, 55 mg | [H-].[Na+]
reactant | 2-(3,4,5-trimethoxylbenzyl)-benzo[b]thiophene-3-sulfonyl chloride | 0.66 mmoles, 0.27 g | O(C)C=1C=C(CC2=C(C3=C(S2)C=CC=C3)S(=O)(=O)Cl)C=C(C1OC)OC | C18H17ClO5S2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | N-(4-bromo-3-methyl-5-isoxazolyl)-2-(3,4,5-trimethoxybenzyl)benzo[b]thiophene-3-sulfonamide | BrC=1C(=NOC1NS(=O)(=O)C=1C2=C(SC1CC1=CC(=C(C(=C1)OC)OC)OC)C=CC=C2)C | C22H21BrN2O6S2
